US05990101
3-(allyloxycarbonyl)methylimidazo[5,1-b]thiazole
A 30 mg potion of a sodium ethoxide powder was added to 6.2 ml of an allyl alcohol solution containing 314.2 mg of 3-ethoxycarbonylmethylimidazo[5,1-b]thiazole, and the mixture was then was then heated under reflux for 7 hours. After cooled, the reaction solution was concentrated under reduced pressure, and the organic layer extracted with dichloromethane (10 ml×4) was dried over anhydrous magnesium sulfate, and then filtered, and the solvent was evaporated under reduced pressure. The resulting crude product was purified by a silica gel column chromatograph to obtain 240.4 mg of the title compound as a colorless solid.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | allyl alcohol | 6.2 ml | C(C=C)O | C3H6O
reactant | 3-ethoxycarbonylmethylimidazo[5,1-b]thiazole | 314.2 mg | C(C)OC(=O)CC=1N2C(SC1)=CN=C2 | C9H10N2O2S
product | 3-(allyloxycarbonyl)methylimidazo[5,1-b]thiazole | 240.4 mg | C(C=C)OC(=O)CC=1N2C(SC1)=CN=C2 | C10H10N2O2S
